US08865701B2
Step 4: N-benzyl-4′-[(4-phenylpiperidin-1-yl)carbonyl]-3,4-dihydro-2H-spiro[naphthalene-1,3′-pyrrolidine]
N-benzyl-3,4-dihydro-2H-spiro[naphthalene-1,3′-pyrrolidine]-4′-carboxylic acid (0.1 g, 0.311 mmol) in CH2Cl2 (4 ml) was added oxalyl chloride (0.187 ml, 0.373 mmol) followed by 2 drops of DMF. Stirred at room temperature for 30 minutes and concentrated. Dissolve in THF (5 mL) and added 4-phenylpiperidine (0.050 g, 0.311 mmol) and triethylamine (0.173 ml, 1.245 mmol).

reactant | N-benzyl-3,4-dihydro-2H-spiro[naphthalene-1,3′-pyrrolidine]-4′-carboxylic acid | 0.311 mmol, 0.1 g | C(C1=CC=CC=C1)N1CC2(C(C1)C(=O)O)CCCC1=CC=CC=C12 | C21H23NO2
reactant | oxalyl chloride | 0.373 mmol, 0.187 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-phenylpiperidine | 0.311 mmol, 0.050 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | triethylamine | 1.245 mmol, 0.173 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | N-benzyl-4′-[(4-phenylpiperidin-1-yl)carbonyl]-3,4-dihydro-2H-spiro[naphthalene-1,3′-pyrrolidine] | C(C1=CC=CC=C1)N1CC2(C(C1)C(=O)N1CCC(CC1)C1=CC=CC=C1)CCCC1=CC=CC=C12 | C32H36N2O
